US07648983B2
(+/−) Tert-Butyl (4S,6S)-4-(3-bromophenyl)-6-(hydroxymethyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate
To a 0° C. solution of ethyl 4-(3-bromophenyl)-2-(tert-butoxycarbonylamino)-4-methyl-5,6-dihydro-4H-1,3-thiazine-6-carboxylate (2.0 g, 4.4 mmol) in tetrahydrofuran (87 mL) and ethanol (25 mL) is added lithium borohydride (289 mg, 13.1 mmol, 3 equiv). The reaction is warmed to room temperature and stirred for 4 h. The reaction mixture is quenched with saturated NH4Cl. The layers are separated and the aqueous layer is extracted with ethyl acetate. The combined organic layers are washed with saturated aqueous NaCl and dried over Na2SO4. The mixture is filtered and concentrated to give a light yellow oil. The oil is purified by column chromatography on silica gel (120 g) using a gradient of 0 to 100% ethyl acetate/hexane to give the title compound (29% yield): MS (m/z): 415, 417 (M+1).

reactant | ethyl 4-(3-bromophenyl)-2-(tert-butoxycarbonylamino)-4-methyl-5,6-dihydro-4H-1,3-thiazine-6-carboxylate | 4.4 mmol, 2.0 g | BrC=1C=C(C=CC1)C1(N=C(SC(C1)C(=O)OCC)NC(=O)OC(C)(C)C)C | C19H25BrN2O4S
reactant | lithium borohydride | 13.1 mmol, 289 mg, 3 equiv | [BH4-].[Li+]
solvent | tetrahydrofuran | 87 mL | O1CCCC1 | C4H8O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (+/−) Tert-Butyl (4S,6S)-4-(3-bromophenyl)-6-(hydroxymethyl)-4-methyl-5,6-dihydro-4H-1,3-thiazin-2-ylcarbamate | 29% yield | BrC=1C=C(C=CC1)[C@]1(N=C(S[C@@H](C1)CO)NC(OC(C)(C)C)=O)C | C17H23BrN2O3S
